US06028223
To ethyl benzimidate hydrochloride (3 g, 0.016 mole)(Fluka) and (2.1 g, 0.016 mole) diisopropylethylamine in H2O (15 ml) and dioxane (15 ml) was added 3-aminobenzoic acid (2.22 g, 0.016 mole) (Aldrich). The reaction mixture was stirred at room temperature for 4 days. The resulting precipitate was filtered, washed with dioxane/H2O and dried. The precipitate was slurried in H2O and acidified with concentrated HCl. The solvent was removed under vacuum and the residue was slurried in ether. The ether was decanted off and the residue dried under vacuum to yield N-(3-carboxyphenyl)benzamidine hydrochloride (700 mg) as a white solid. MS and NMR were consistent with the desired structure.

reactant | ethyl benzimidate hydrochloride | 0.016 mole, 3 g | Cl.C(C1=CC=CC=C1)(OCC)=N
reactant | diisopropylethylamine | 0.016 mole, 2.1 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-aminobenzoic acid | 0.016 mole, 2.22 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
solvent | H2O | 15 ml | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-(3-carboxyphenyl)benzamidine hydrochloride | 700 mg | Cl.C(=O)(O)C=1C=C(C=CC1)NC(C1=CC=CC=C1)=N | InChI=1S/C14H12N2O2.ClH/c15-13(10-5-2-1-3-6-10)16-12-8-4-7-11(9-12)14(17)18;/h1-9H,(H2,15,16)(H,17,18);1H
